US08466180B2
To a mixture of 2-amino-4-nitro-benzonitrile (3.3 g, 20.23 mmol) and pyridine (4.88 ml, 60.68 mmol) in anhydrous tetrahydrofuran (30 ml) under an atmosphere of nitrogen was added 4-fluorobenzoyl chloride (2.67 ml, 22.25 mmol). The reaction mixture was stirred at ambient temperature for 1 hour. Then more 4-fluorobenzoyl chloride (2.67 ml, 22.25 mmol) was added to the mixture. The reaction mixture was stirred at 50° C. for 1 hour. The reaction mixture was diluted with ethyl acetate and aqueous sodium hydrogen carbonate (saturated). The phases were separated and the aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated. The residue was dissolved in methanol (200 ml) and potassium carbonate (5.1 g) was added. The reaction mixture was stirred for 16 hours at ambient temperature. The reaction mixture was diluted with ethyl acetate and aqueous sodium hydrogen carbonate (saturated). The phases were separated and the aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/tetrahydrofuran 10:1) to give N-(2-cyano-5-nitro-phenyl)-4-fluoro-benzamide (1.82 g, 32% yield). 1H-NMR (DMSO-d6, 400 MHz): 11.02 (s, 1H), 8.48 (s, 1H), 8.20 (s, 2H), 8.11 (m, 2H), 7.45 (m, 2H) ppm.

reactant | 2-amino-4-nitro-benzonitrile | 20.23 mmol, 3.3 g | NC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H5N3O2
reactant | pyridine | 60.68 mmol, 4.88 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-fluorobenzoyl chloride | 22.25 mmol, 2.67 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-fluorobenzoyl chloride | 22.25 mmol, 2.67 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-(2-cyano-5-nitro-phenyl)-4-fluoro-benzamide | 1.82 g, 32% yield | C(#N)C1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC=C(C=C1)F)=O | C14H8FN3O3
